US08058269B2
The mixture of rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (370 mg, 1 mmol), N-phenylethanolamine (165 mg, 1.2 mmol) and K2CO3 (276 mg, 2 mmol) in DMF (2 mL) was stirred at room temperature for 3 h. The mixture was poured into water (30 mL), extracted with ethyl acetate (10 mL×3). The organic layer was separated, dried over Na2SO4 and concentrated. The residue was purified with chromatography to give 51 mg of rac-6-chloro-3-(3-chloro-benzyl)-3-[(2-hydroxy-ethyl)-phenyl-amino]-1,3-dihydro-indol-2-one as a white solid. MS: [M+H]+=427.

reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 1 mmol, 370 mg | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | N-phenylethanolamine | 1.2 mmol, 165 mg | C1(=CC=CC=C1)NCCO | C8H11NO
reactant | K2CO3 | 2 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | rac-6-chloro-3-(3-chloro-benzyl)-3-[(2-hydroxy-ethyl)-phenyl-amino]-1,3-dihydro-indol-2-one | 51 mg | ClC1=CC=C2C(C(NC2=C1)=O)(N(C1=CC=CC=C1)CCO)CC1=CC(=CC=C1)Cl | C23H20Cl2N2O2
